US09227978B2
5-Bromo-4-chloro-2-iodobenzenamine
To a solution of 3-bromo-4-chlorobenzenamine (10.0 g, 48.5 mmol) in CH3COOH (50 mL), NIS (10.9 g, 48.5 mmol) was added in portions and the resulting mixture was stirred at room temperature for 16 h. The mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with saturated NaHCO3 solution and brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=50:1) to afford the desired product (2.5 g, 15.5% yield). ESI-MS m/z: 329.9 [M−H]−.

reactant | 3-bromo-4-chlorobenzenamine | 48.5 mmol, 10.0 g | BrC=1C=C(C=CC1Cl)N | C6H5BrClN
reactant | NIS | 48.5 mmol, 10.9 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | CH3COOH | 50 mL | CC(=O)O | C2H4O2
product | 5-Bromo-4-chloro-2-iodobenzenamine | 2.5 g, 15.5% yield | BrC=1C(=CC(=C(C1)N)I)Cl | C6H4BrClIN
